US08664443B2
Preparation of Benzyl N-[(1S)-2-[(1S,3S,5S)-3-cyano-2-azabicyclo[3.1.0]hexan-2-yl]-1-(3-hydroxyadamantan-1-yl)-2-oxo ethyl]carbamate (Formula-XI)
Trifluoro acetic anhydride (41.36 gm) was added to a solution of [benzyl N-[(1S)-2-[(1S,3S,5S)-3-carbamoyl-2-azabicyclo[3.1.0]hexan-2-yl]-1-(3-hydroxyadamantan-1-yl)-2-oxo-ethyl]carbamate of formula-XV (27 gm) and ethyl nicotinate (30.6 gm) in ethyl acetate at 0-5° C. After 6 hrs water was added to the reaction. Organic phase was washed with 2N HCl solution, dried and concentrated. The crude compound obtained was dissolved in methanol, hydrolyzed with aqueous potassium carbonate (112 gm of K2CO3 in 228 ml water) for 2 hrs at 25° C. Solvent was distilled off from the reaction mass and aqueous phase extracted with ethyl acetate. Organic phase was dried and evaporated and the solid obtained was purified in THF to yield 20.8 gm (80%) of the desired product. M.P: 148-150° C., HPLC Purity: 99.5% (A), H1NMR (300 MHz, CDCl3): 1.06-1.09 (m, 2H), 1.45-1.9 (m, 12H), 2.25 (m, 2H), 2.33-2.38 (dd, 1H), 2.52-2.54 (m, 1H), 3.82-3.84 (dd, 1H), 4.5 (d, 1H), 4.99-5.04 (dd, 1H), 5.08 (s, 2H), 5.59-5.63 (d, 1H), 7.32-7.63 (m, 5H).

reactant | Trifluoro acetic anhydride | 41.36 gm | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | benzyl N-[(1S)-2-[(1S,3S,5S)-3-carbamoyl-2-azabicyclo[3.1.0]hexan-2-yl]-1-(3-hydroxyadamantan-1-yl)-2-oxo-ethyl]carbamate | C(N)(=O)[C@H]1N([C@H]2C[C@H]2C1)C([C@H](C12CC3(CC(CC(C1)C3)C2)O)NC(OCC2=CC=CC=C2)=O)=O | C26H33N3O5
reactant | ethyl nicotinate | 30.6 gm | C(C1=CN=CC=C1)(=O)OCC | C8H9NO2
reactant | potassium carbonate | 228 ml, 112 gm | C([O-])([O-])=O.[K+].[K+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | CO | CH4O
solvent | water | O | H2O
product | Benzyl N-[(1S)-2-[(1S,3S,5S)-3-cyano-2-azabicyclo[3.1.0]hexan-2-yl]-1-(3-hydroxyadamantan-1-yl)-2-oxo ethyl]carbamate | 20.8 gm, 80% | C(#N)[C@H]1N([C@H]2C[C@H]2C1)C([C@H](C12CC3(CC(CC(C1)C3)C2)O)NC(OCC2=CC=CC=C2)=O)=O | C26H31N3O4
